US08217028B2
Sodium hydroxide (50 mg) was added to a solution of ethyl 3-(7-{5-[6-[(1-methylethyl)oxy]-5-(trifluoromethyl)-3-pyridinyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate (D37) (83 mg) in isopropanol (5 mL), THF (3 mL), water (1.5 mL). The reaction mixture was stirred at room temperature overnight. The organic solvents were removed. 2 M HCl was used to adjust the pH value to around 6.0. The crude product was purified by Mass Directed Auto Prep to afford 3-(7-{5-[6-[(1-methylethyl)oxy]-5-(trifluoromethyl)-3-pyridinyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoic acid (E15) (40 mg). δH (DMSO-d6, 400 MHz): 1.41 (6H, d), 2.64 (2H, t), 3.01 (2H, t), 5.56 (1H, m), 7.22 (1H, t), 7.29 (1H, d), 7.84 (1H, d), 7.96 (1H, dd), 8.79 (1H, d), 9.36 (1H, d), 10.86 (1H, s), 12.07 (1H, br s); MS (ES): C22H19F3N4O4 requires 460; found 461.2 (M+H+).

reactant | Sodium hydroxide | 50 mg | [OH-].[Na+]
reactant | ethyl 3-(7-{5-[6-[(1-methylethyl)oxy]-5-(trifluoromethyl)-3-pyridinyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoate | 83 mg | CC(C)OC1=C(C=C(C=N1)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)OCC)C(F)(F)F | C24H23F3N4O4
solvent | isopropanol | 5 mL | C(C)(C)O | C3H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1.5 mL | O | H2O
product | 3-(7-{5-[6-[(1-methylethyl)oxy]-5-(trifluoromethyl)-3-pyridinyl]-1,2,4-oxadiazol-3-yl}-1H-indol-3-yl)propanoic acid | 40 mg | CC(C)OC1=C(C=C(C=N1)C1=NC(=NO1)C=1C=CC=C2C(=CNC12)CCC(=O)O)C(F)(F)F | C22H19F3N4O4
